US07589232B2
Step b) Formation of 5-((biphenyl-4-ylcarbonyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)biphenyl-4-carboxamide and NaOH 1M aq. in the presence of EtOH as a pale yellow powder (41%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)biphenyl-4-carboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C42H37NO4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-((biphenyl-4-ylcarbonyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-hydroxybenzoic acid | C1(=CC=C(C=C1)C(=O)N(C=1C=CC(=C(C(=O)O)C1)O)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC)C1=CC=CC=C1 | C39H33NO4
